US08183264B2
5-Trimethylsilanylethynyl-pyridin-2-ylamine
To a solution of THF (10 mL) and water (5 mL) of 2-nitro-5-trimethylsilanylethynyl-pyridine (410 mg) described in Manufacturing Example 3-1 were added iron powder (510 mg) and ammonium chloride (200 mg) at room temperature, which was stirred for 75 minutes at 70° C. The reaction solution was cooled to room temperature, and then filtered through Celite, and the solvent was evaporated from the filtrate under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the titled compound (320 mg).

reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | 2-nitro-5-trimethylsilanylethynyl-pyridine | 410 mg | [N+](=O)([O-])C1=NC=C(C=C1)C#C[Si](C)(C)C | C10H12N2O2Si
reactant | ammonium chloride | 200 mg | [Cl-].[NH4+]
catalyst | iron | 510 mg | [Fe] | Fe
solvent | water | 5 mL | O | H2O
product | 5-Trimethylsilanylethynyl-pyridin-2-ylamine | 320 mg | C[Si](C)(C)C#CC=1C=CC(=NC1)N | C10H14N2Si
